US08017630B2
2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-(4-fluoro-phenyl)-acetamide
n-Butyllithium (1.6 M solution in hexane; 11.9 ml; 19 mmol) was added dropwise at 0° C. to a solution of 4-fluoroaniline (1.06 g; 9.5 mmol) in 10 ml THF. The mixture was allowed to come to RT and was subsequently stirred for 1 h. A solution of (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester (2.5 g; 8.6 mmol) in 15 ml THF was added dropwise at −78° C. The mixture was subsequently stirred for 1 h and then allowed to come to RT. It was hydrolysed with ammonium chloride solution and extracted with MC. After concentration, the crude product was taken up in ether. A solid then remained (less polar diastereoisomer; 1.37 g; 45%); the supernatant was chromatographed on silica gel (eluent:ether). 315 mg (10%) of the more polar diastereoisomer were obtained.

reactant | n-Butyllithium | 19 mmol, 1.6 M, 11.9 ml | C(CCC)[Li]
reactant | 4-fluoroaniline | 9.5 mmol, 1.06 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester | 8.6 mmol, 2.5 g | C(C)OC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C18H27NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-(4-fluoro-phenyl)-acetamide | CN(C1(CCC(CC1)CC(=O)NC1=CC=C(C=C1)F)C1=CC=CC=C1)C | C22H27FN2O
